US05324747
A mixture of 5.5 g of N-(3-nitrophenyl)octadecanamide and 0.6 g of 10% palladium on carbon in 100 ml of ethyl acetate was shaken under an initial hydrogen pressure of 52 psi until uptake ceased after 23 hours. The catalyst was removed by filtration and the filtrate was concentrated at reduced pressure to a solid which was recrystallized from methanol-water to give 4.6 g (90% yield, mp 98°-102°) of N-(3-aminophenyl)octadecanamide.

reactant | N-(3-nitrophenyl)octadecanamide | 5.5 g | [N+](=O)([O-])C=1C=C(C=CC1)NC(CCCCCCCCCCCCCCCCC)=O | C24H40N2O3
catalyst | palladium on carbon | 0.6 g | [Pd] | Pd
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-(3-aminophenyl)octadecanamide | 4.6 g, 90% yield | NC=1C=C(C=CC1)NC(CCCCCCCCCCCCCCCCC)=O | C24H42N2O
